US05661159
To a cooled mixture of 7-chloro-2-(5-formylbenzofuran-2-yl)quinoline (0.77 g), N,N-dimethyl-3-mercaptopropionamide (0.37 g) and methyl 4-mercaptobutyrate (0.37 g) in acetonitrile (15 ml), boron trifluoride etherate (1.38 ml) was added dropwise at 0° C. After being stored in refrigerator for 18 hours, the resulting mixture was poured into ice-water, adjusted to pH 7 with aqueous sodium hydrogen carbonate solution and extracted with diethyl ether. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a mixture containing 3 compounds. The mixture was subjected to column chromatography on silica gel and eluted with toluene, successively a mixture of toluene and ethyl acetate (8:2) and at last a mixture of chloroform and methanol (10:1). The fractions eluted with toluene were concentrated under reduced pressure to give an oil of 7-chloro-2-{5-[bis(3-methoxycarbonylpropylthio)methyl]-benzofuran-2-yl}quinoline (0.25 g).

reactant | 7-chloro-2-(5-formylbenzofuran-2-yl)quinoline | 0.77 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)C=O | C18H10ClNO2
reactant | N,N-dimethyl-3-mercaptopropionamide | 0.37 g | CN(C(CCS)=O)C | C5H11NOS
reactant | methyl 4-mercaptobutyrate | 0.37 g | SCCCC(=O)OC | C5H10O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | boron trifluoride etherate | 1.38 ml | B(F)(F)F.CCOCC
product | 7-chloro-2-{5-[bis(3-methoxycarbonylpropylthio)methyl]-benzofuran-2-yl}quinoline | 0.25 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)C(SCCCC(=O)OC)SCCCC(=O)OC | C28H28ClNO5S2
